US04284484
A process for preparing 1,3,5,7-tetraaminoadamantane which comprises reacting 1,3,5,7-tetraiodoadamantane with acetonitrile and water in the presence of actinic radiation to form 1,3,5,7-tetraacetamidoadamantane and hydrolyzing the 1,3,5,7-tetraacetamidoadamantane with hydrochloric acid to form 1,3,5,7-tetraaminoadamantane tetrahydrochloride.

reactant | 1,3,5,7-tetraacetamidoadamantane | C(C)(=O)NC12CC3(CC(CC(C1)(C3)NC(C)=O)(C2)NC(C)=O)NC(C)=O | C18H28N4O4
reactant | hydrochloric acid | Cl | ClH
product | 1,3,5,7-tetraaminoadamantane tetrahydrochloride | Cl.Cl.Cl.Cl.NC12CC3(CC(CC(C1)(C3)N)(C2)N)N | InChI=1S/C10H20N4.4ClH/c11-7-1-8(12)4-9(13,2-7)6-10(14,3-7)5-8;;;;/h1-6,11-14H2;4*1H
